US07585878B2
In 100 ml of acetonitrile was dissolved 9.3 g of ethyl 2-(bromomethyl)biphenyl-4-carboxylate, and 7.0 g of N-methylmorpholine-N-oxide was added thereto at room temperature, followed by 4 hours of stirring. Water was added to the reaction solution, which was then extracted with ethyl acetate. The resulting organic layer was dried over anhydrous magnesium sulfate. After the solvent was removed by evaporation, the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate) to obtain 4.94 g of ethyl 2-formylbiphenyl-4-carboxylate as a white solid.

reactant | ethyl 2-(bromomethyl)biphenyl-4-carboxylate | 9.3 g | BrCC1=C(C=CC(=C1)C(=O)OCC)C1=CC=CC=C1 | C16H15BrO2
reactant | N-methylmorpholine-N-oxide | 7.0 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | Water | O | H2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | ethyl 2-formylbiphenyl-4-carboxylate | 4.94 g | C(=O)C1=C(C=CC(=C1)C(=O)OCC)C1=CC=CC=C1 | C16H14O3
